US08008327B2
Synthesis of 1-(4-Fluoro-phenyl)-4-(4-methylsulfamoyl-benzylcarbamoyl)-1H-indazole-6-carboxylic acid ethyl ester (29)
A mixture of 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide (0.2 g, 0.4 mmol), triethylamine (0.1 g, 0.9 mmol), dichlorobis(benzonitrile)palladium (0.02 g, 0.05 mmol) and 1,1-bis(diphenylphosphino)ferrocene (0.03 g, 0.05 mmol) was charged in a sealed tube with absolute ethanol (15 mL). The solution was placed under 15 bars of carbon monoxide and warmed at 140° C. for 4 hours. The mixture was cooled to room temperature and returned to atmospheric pressure. The reaction was diluted with water (30 mL) and the solid was collected by filtration. The filtrate was diluted with water (20 mL) and ethyl acetate (20 mL). The organic layer was separated and washed with brine (10 mL) and dried over sodium sulfate and concentrated. The residue was purified by silica gel chromatography eluting with a gradient of 30-70% ethyl acetate in hexanes to afford the title compound.

reactant | 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide | 0.4 mmol, 0.2 g | CNS(=O)(=O)C1=CC=C(CNC(=O)C=2C=3C=NN(C3C=C(C2)Br)C2=CC=C(C=C2)F)C=C1 | C22H18BrFN4O3S
reactant | triethylamine | 0.9 mmol, 0.1 g | C(C)N(CC)CC | C6H15N
reactant | ethanol | 15 mL | C(C)O | C2H6O
reactant | carbon monoxide | [C]=O | CO
solvent | water | 30 mL | O | H2O
catalyst | dichlorobis(benzonitrile)palladium | 0.05 mmol, 0.02 g | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
catalyst | 1,1-bis(diphenylphosphino)ferrocene | 0.05 mmol, 0.03 g | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 1-(4-Fluoro-phenyl)-4-(4-methylsulfamoyl-benzylcarbamoyl)-1H-indazole-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=C2C=NN(C2=C1)C1=CC=C(C=C1)F)C(NCC1=CC=C(C=C1)S(NC)(=O)=O)=O | C25H23FN4O5S
